US07851626B2
rac-4-[(4S*,5R*)-4,5-Bis-(4-chloro-phenyl)-2-(2-isopropoxy-4-methoxy-phenyl)-4-methyl-4,5-dihydro-imidazole-1-carbonyl]-piperazine-1-carboxylic acid dimethylamide
In a manner analogous to the method described in example 5, rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-(2-isopropoxy-4-methoxy-phenyl)-4-methyl-4,5-dihydro-imidazole-1-carbonyl chloride was reacted with piperazine-1-carboxylic acid dimethylamide (Aldrich) to give the title compound. LC-MS: 652.2 [(M+H)+]

reactant | rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-(2-isopropoxy-4-methoxy-phenyl)-4-methyl-4,5-dihydro-imidazole-1-carbonyl chloride | ClC1=CC=C(C=C1)C1(N=C(N(C1C1=CC=C(C=C1)Cl)C(=O)Cl)C1=C(C=C(C=C1)OC)OC(C)C)C | C27H25Cl3N2O3
reactant | piperazine-1-carboxylic acid dimethylamide | CN(C(=O)N1CCNCC1)C | C7H15N3O
product | rac-4-[(4S*,5R*)-4,5-Bis-(4-chloro-phenyl)-2-(2-isopropoxy-4-methoxy-phenyl)-4-methyl-4,5-dihydro-imidazole-1-carbonyl]-piperazine-1-carboxylic acid dimethylamide | CN(C(=O)N1CCN(CC1)C(=O)N1C(=N[C@@]([C@H]1C1=CC=C(C=C1)Cl)(C)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)OC)OC(C)C)C | C34H39Cl2N5O4
